* Z:\mnt\spice-netlists\LT1568_DC675BF06.asc
V2 N003 0 5
V3 N009 0 -5
R3 N001 N004 {.72G/fc}
R§ZA3 IN N004 {.72G/fc}
R2 N004 N005 {1.14G/fc}
XU1 N003 N005 N004 N001 N007 0 0 N009 N009 0 0 N008 OUT N002 N006 N003 LT1568
R4 OUT N002 {.88G/fc}
R§ZAB1 N002 N001 {.88G/fc}
R5 N002 N006 {.72G/fc}
V1 IN 0 AC 1
.ac oct 250 10K 20Meg
.param fc=1Meg
* LT1568 - Very Low Noise, High Frequency Active RC, Filter Building Block\n4th Order, Butterworth, Lowpass Filter (Linear Passband Phase)\nLow Overshoot and Fast Settling Transient Response\nPassband Gain = 0dB
* Notes: \n  Min R3 and R4 is 100ohms. See Demo Manual DC675B for details.\n  Any impedance in series or parallel with an input resistor changes the filter's poles and passband gain.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc.  All rights reserved.
.lib LT1568.sub
.backanno
.end
