* Z:\mnt\spice-netlists\LT1568_DC675BF07.asc
V2 N004 0 5
V3 N009 0 -5
R3 N007 N001 {1.24G/fc}
R§ZA3 N001 IN {1.24G/fc}
R2 N005 N001 {1.66G/fc}
XU1 N004 N005 N001 N007 N003 0 0 N009 N009 0 0 N008 OUT N002 N006 N004 LT1568
R4 N002 OUT {1.9G/fc}
RN1 N002 N003 {1.9G/fc}
R5 N002 N006 {.64G/fc}
CN1 N002 N001 12p
V1 IN 0 AC 1
.ac oct 250 10K 10Meg
.param fc=1meg
* LT1568 - Very Low Noise, High Frequency Active RC, Filter Building Block\n4th Order, Elliptic, Lowpass Filter\nPassband = ±0.3dB    Stopband Attenuation = -42dB at 2.3fc
* Notes: \n  Min R3 and R4 is 100ohms. See Demo Manual DC675B for details.\n  Any impedance in series or parallel with an input resistor changes the filter's poles and passband gain.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc.  All rights reserved.
.lib LT1568.sub
.backanno
.end
