* Z:\mnt\spice-netlists\LT1510_F01.asc
XU1 0 N007 N004 MP_01 N003 MP_02 N002 MP_03 MP_04 OUT MP_05 N005 N008 N001 LT1510
V1 IN 0 14
L1 N007 N002 10µ
C1 N004 N007 .22µ
D1 N002 N004 1N4148
R1 OUT N003 70.6K
R2 N003 0 100K
R3 N006 0 1K
C2 N006 N005 .1µ
R5 N009 0 300
C3 N009 N008 1µ
R6 N008 0 6.19K
C4 OUT 0 22µ
D2 0 N007 1N5818
C5 OUT 0 5m
D3 IN N001 MBRS130L
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10m startup
.ic V(out) = 3
* LT1510 - Constant-Voltage/Constant-Current Battery Charger\n500kHz Li-Ion Battery Charger\nInput: 8.2V to 20V     Output: 4.2V @ .8A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT1510.sub
.backanno
.end
