* Z:\mnt\spice-netlists\LT1512_F01.asc
V1 IN 0 15
C4 N006 N005 .1µ
R3 N005 0 1K
R2 N004 0 6.19K
R1 OUT N004 18.7K
D1 N002 OUT MBRS130L
L2 N008 N002 33µ
L1 IN N001 33µ
XU1 N006 N004 N007 N003 IN 0 0 N001 LT1512
R4 N008 0 .2
R5 N008 N007 24
C1 N007 0 .22µ
C3 N002 N001 2.2µ
C6 OUT 0 100µ
C2 OUT 0 1m
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
K1 L1 L2 1
.tran 5m
.ic V(out) = 3.9
* LT1512 - SEPIC Constant-Current/Constant-Voltage Battery Charger\nSEPIC Charger with 0.5A Output Current\nInput: 5V to 25V     Output: 5.2V @ .5A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT1512.sub
.backanno
.end
